data/core_train_final.csv
"[H:10][C:9]1[C:11]2=[C:12]([CH:13]=[CH:14][CH:15]=[CH:16]2)[C:2](=[O:1])[C:3]3=[CH:4][CH:5]=[CH:6][CH:7]=[C:8]13>>[H:10][C:9]1=[C:11]2[CH:16]=[CH:15][CH:14]=[CH:13][C:12]2[C:2](=[O:1])[C:3]3=[CH:4][CH:5]=[CH:6][CH:7]=[C:8]13 9-9,11; 11,12-9,11; 11,12-12",Room Temperature,Propagation,resonance
"[H:1][C:2]1[CH2:3][CH2:4][CH2:5][CH2:6]1.[Cl:7][Cl:8]>>[H:1][C:2]1([CH2:3][CH2:4][CH2:5][CH2:6]1)[Cl:7].[Cl:8] 7,8-2,7;2-2,7;7,8-8",Room Temperature,Propagation,abstraction
"[CH2:10]O[C:20]1=[C:21](/C(CC2)=C([H])/CCCC)[C:22]2=[C:23]([O:24])C(OC)=C1OC>>[H]/C(CCCC)=C(CC3)\[C:21]4=[C:22]3[C:23](C(OC)=C(OC)[C:20]45O[CH2:10]5)=[O:24] 10-10,20;20,21-10,20;20,21-21,22;22,23-21,22;22,23-23,24;24-23,24",Room Temperature,Termination,addition
"[O:2][I:1].[He]>>[He].[O:2].[I:1] 1,2-1; 1,2-2",Light,Initiation,homolyze
"[CH3:32][C:31]1([CH2:34][CH:35][CH2:36][C:37]2([CH:30]1[CH2:29][CH2:28][C:26]3([CH:39]2[CH2:40][C:24](=[O:23])[O:25]3)[CH3:27])[CH3:38])[CH3:33].[CH3:6][C:5]([CH3:7])([CH3:8])[N:3]([C:2](=[O:1])[C:9]1=[CH:10][C:11](=[CH:16][C:17](=[CH:22]1)[C:18]([F:19])([F:20])[F:21])[C:12]([F:13])([F:14])[F:15])[Cl:4]>>[CH3:32][C:31]1([CH2:34][CH:35]([CH2:36][C:37]2([CH:30]1[CH2:29][CH2:28][C:26]3([CH:39]2[CH2:40][C:24](=[O:23])[O:25]3)[CH3:27])[CH3:38])[Cl:4])[CH3:33].[CH3:8][C:5]([CH3:6])([CH3:7])[N:3][C:2](=[O:1])[C:9]1=[CH:22][C:17](=[CH:16][C:11](=[CH:10]1)[C:12]([F:15])([F:14])[F:13])[C:18]([F:19])([F:21])[F:20] 35-35,4; 4,3-35,4; 4,3-3",Room Temperature,Propagation,abstraction
"[H:14][C:13]1=[CH:12][C:9]([CH:8]=[C:3]([C:2]1=[O:1])[C:4]([CH3:5])([CH3:6])[CH3:7])[O:10][CH3:11]>>[H:14][C:13]1[CH:12]=[C:9]([CH:8]=[C:3]([C:2]1=[O:1])[C:4]([CH3:5])([CH3:6])[CH3:7])[O:10][CH3:11] 9-9,12; 12,13-9,12; 12,13-13",Room Temperature,Propagation,resonance
"[Cl:1][Cl:2].[Ar]>>[Ar].[Cl:1].[Cl:2] 1,2-1;1,2-2",Heat,Initiation,homolyze
"CCCCC[CH:10]C.[Cl:20][Cl:21]>>CCCCC[CH:10](C)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:1][C:2]([H:3])([H:4])[H:5].[Cl:6].[Ar]>>[Ar].[H:3][C:2]([H:4])[H:1].[H:5][Cl:6] 6-6,5;2,5-6,5;2,5-2",Heat,Propagation,abstraction
"CCCC[Sn](CCCC)(CCCC)Br.C[C:10](C)CCC1(CC([CH:21]=[CH:20]1)CCC#C)C>>CCCC[Sn](CCCC)(CCCC)Br.CC12CC([CH:21][CH:20]1[C:10](C)(C)CC2)CCC#C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][CH:21](C=C)C=C.[Br:10]>>[H:20][Br:10].C=C[CH:21]C=C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:5][C:4]([H:7])([CH3:6])[CH:2]([CH3:1])[Cl:3].[Cl:8]>>[H:5][C:4]([CH3:6])[CH:2]([CH3:1])[Cl:3].[H:7][Cl:8] 8-8,7;7,4-8,7;4,7-4",Room Temperature,Propagation,abstraction
"[O:10][O:11][O].[F:20]>>[O:11][O].[O:10][F:20] 10,11-10,20;10,11-11;20-10,20",Room Temperature,Propagation,abstraction
"[H:6][C:5]1([CH2:4][C:2]([CH2:8]1)([CH3:1])[CH3:3])[CH3:7].[Cl:9]>>[H:6][Cl:9].[CH3:7][C:5]1[CH2:4][C:2]([CH2:8]1)([CH3:1])[CH3:3] 9-9,6;6,5-6,9;5,6-5",Room Temperature,Propagation,abstraction
"[CH3:12][N:11]1[CH:13][C:14](=[O:15])[N:9]([CH:3]([C:2]1=[O:1])[O:4][CH2:5][CH:6]=[C:7]=[CH2:8])[CH3:10]>>[CH3:12][N:11]1[CH:13]2[C:7](=[CH:6][CH2:5][O:4][CH:3]([C:2]1=[O:1])[N:9]([C:14]2=[O:15])[CH3:10])[CH2:8] 13-13,7; 7,8-7,13; 7,8-8",Room Temperature,Propagation,addition
"[H:10][C:11](=[CH:13][C:14]1=[CH:15][CH:16]=[CH:17][CH:18]=[CH:19]1)[H:12].[H:3][C:2]([CH3:1])[C:4]1=[CH:5][CH:6]=[CH:7][CH:8]=[CH:9]1>>[H:10][C:11]([H:12])([CH:13][C:14]1=[CH:15][CH:16]=[CH:17][CH:18]=[CH:19]1)[C:2]([H:3])([CH3:1])[C:4]2=[CH:5][CH:6]=[CH:7][CH:8]=[CH:9]2 2-2,11;11,13-2,11;11,13-13",Room Temperature,Propagation,addition
"[CH3:1][C:2]1=[N:3][CH:4]([CH2:8][CH2:9]1)[C:5]([CH3:6])[CH3:7].[CH2:10]=[CH:11][S:12](=[O:13])(=[O:20])[C:14]1=[CH:15][CH:16]=[CH:17][CH:18]=[CH:19]1>>[CH3:1][C:2]1=[N:3][CH:4]([CH2:8][CH2:9]1)[C:5]([CH3:6])([CH3:7])[CH2:10][CH:11][S:12](=[O:13])(=[O:20])[C:14]2=[CH:15][CH:16]=[CH:17][CH:18]=[CH:19]2 5-5,10; 10,11-5,10; 10,11-11",Room Temperature,Propagation,addition
"[CH2:10]C1=CC(=C(C(=C1)Br)Br)Br.[Br:20][Br:21]>>C1=C(C=C(C(=C1Br)Br)Br)[CH2:10][Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C:10](C)C1=CC=CC=C1.[Br:20][Br:21]>>C[C:10](C)(C1=CC=CC=C1)[Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH2:3]1[CH2:4][C:7](=[O:8])[N:5]([C:2]1=[O:1])[Br:6].[He]>>[He].[CH2:3]1[CH2:4][C:7](=[O:8])[N:5][C:2]1=[O:1].[Br:6] 5,6-6;5,6-5",Light,Initiation,homolyze
"[CH3:1][C:2]1[CH2:3][CH2:4][CH2:5][CH2:6][CH2:7]1.[Br:8]>>[CH3:1][C:2]1([CH2:3][CH2:4][CH2:5][CH2:6][CH2:7]1)[Br:8] 2-2,8;8-8,2",Room Temperature,Termination,recombine
"C1CC2=C([CH:20]1)C=CC=C2.[Br:10][Br:11]>>C1CC2=C([CH:20]1[Br:10])C=CC=C2.[Br:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"[H:6][C:3]([CH2:4][CH3:5])([CH2:7][CH3:8])[CH:2]=[CH2:1].[Br:10]>>[H:6][Br:10].[CH3:5][CH2:4][C:3]([CH2:7][CH3:8])[CH:2]=[CH2:1] 10-6,10;3,6-6,10;3,6-3",Room Temperature,Propagation,abstraction
